US04959375
3-Dimethylamino-1-[[(1H)-indazol 3 yl]carbonyl]piperidine
Dicyclohexycarbodiimide (1.25 g) was added to a stirred solution of 3-dimethylaminopiperidine dihydrochloride (1 g, 5 mmol), indazole3-carboxylic acid (1.05 g, 6 mmol) and triethylamine (1.25 g) in dichloromethane (25 ml). The mixture was stirred for 48 h, filtered and the filtrate extracted with 1M hydrochloric acid. The acid extracts were combined, washed with a little dichloromethane then basified with ammonia solution and back-extracted into chloroform. The extract was dried and evaporated. The residue was chromotographed on silica using methanol-methyl acetate (1:9) as eluent to give the product which was crystallised from a low volume of ethyl acetate to give the product (0.165 g) mp 141-142° C.

reactant | 3-dimethylaminopiperidine dihydrochloride | 5 mmol, 1 g | Cl.Cl.CN(C1CNCCC1)C
reactant | indazole3-carboxylic acid | 6 mmol, 1.05 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | triethylamine | 1.25 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-Dimethylamino-1-[[(1H)-indazol 3 yl]carbonyl]piperidine | 0.165 g | CN(C1CN(CCC1)C(=O)C1=NNC2=CC=CC=C12)C | C15H20N4O
